US07429565B2
2-{4-[(1-Ethoxycarbonyl-ethoxy)-methoxy-phosphoryl]-but-2-enyl}-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester
A solution of 2-[4-(hydroxy-methoxy-phosphoryl)-but-2-enyl]-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester (67 mg, 0.10 mmol) and PyBOP (234 mg, 0.450 mmol) in DMF (1.5 mL) was stirred with ethyl (S)-(−)-lactate (53 mg, 0.45 mmol) and DIEA (174 μL, 1.00 mmol) at ambient temperature for 1 hour, when complete consumption of the starting materials was observed. The reaction was worked up by addition of saturated aqueous sodium chloride and ethyl acetate. The organic layer was separated and washed with 5% aqueous solution of lithium chloride. The organic layer was dried in vacuo and the residue was purified by silica gel chromatography using MeOH—CH2Cl2 (0-20%) to provide 57 mg (74%) of the desired product as a clear oil. 1H NMR (300 MHz, CDCl3) δ 0.02 (s, 9H), 0.05 (s, 9H), 0.88-0.94 (m, 2H), 1.20-1.30 (m, 2H), 1.29 (t, 3H, J=7 Hz), 1.45 (d, 3H, J=7 Hz), 1.78 (s, 3H), 2.01-2.31 (m, 4H), 2.17 (s, 3H), 2.50-2.58 (m, 1H), 2.65 (d, 1H, J=22 Hz), 2.67 (d, 1H, J=22 Hz), 3.39 (d, 2H, J=7 Hz), 3.69 and 3.77 (d, 3H, J=11 Hz), 3.76 (s, 3H), 4.07 (appt t, 2H, J=7 Hz), 4.20 (dq, 2H, J=3, 7 Hz), 4.29 (appt t, 2H, J=9 Hz), 4.85-4.99 (m, 1H), 5.12 (s, 2H), 5.19 (br t, 1H, J=6 Hz), 5.33-5.61 (m, 2H) ppm; 31P (121.4 MHz, CDCl3) δ 28.9, 29.9 ppm; MS (m/z) 791.4 [M+Na]+.

reactant | 2-[4-(hydroxy-methoxy-phosphoryl)-but-2-enyl]-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester | 0.10 mmol, 67 mg | C[Si](CCOC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)CC=CCP(=O)(OC)O)=O)(C)C | C32H53O9PSi2
reactant | PyBOP | 0.450 mmol, 234 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | ethyl (S)-(−)-lactate | 0.45 mmol, 53 mg | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | DIEA | 1.00 mmol, 174 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2-{4-[(1-Ethoxycarbonyl-ethoxy)-methoxy-phosphoryl]-but-2-enyl}-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester | 57 mg, 74% | C[Si](CCOC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)CC=CCP(=O)(OC)OC(C)C(=O)OCC)=O)(C)C | C37H61O11PSi2
